US07279494B2
VI. (racemic)isopropyl 3,5-difluoro-4-[(1S,5R,6R)-2-oxo-3-oxabicyclo[3.1.0]hex-6-yl]phenylcarbamate
A solution of (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}prop-2-enyl diazoacetate (2.4 g, 7.07 mmol) in 170 mL of toluene/dichloromethane (1:2) was added dropwise over 14 h to a refluxing solution of bis-(N-t-butylsalicylaldiminato) copper(II) (0.147 g, 0.35 mmol) in 120 mL of toluene. After the addition was complete, the reaction mixture was heated another hour at reflux, then cooled, filtered and concentrated. The crude oil was purified by column chromatography (15-40% EtOAc-hexanes) to provide the title compound (a racemic mixture) as a yellow solid.

reactant | (2E)-3-{2,6-difluoro-4-[(isopropoxycarbonyl)amino]phenyl}prop-2-enyl diazoacetate | 7.07 mmol, 2.4 g | [N+](=[N-])=CC(=O)OC\C=C\C1=C(C=C(C=C1F)NC(=O)OC(C)C)F | C15H15F2N3O4
solvent | toluene dichloromethane | 170 mL | C1(=CC=CC=C1)C.ClCCl
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(II) | 0.35 mmol, 0.147 g | [Cu+2]
product | (racemic)isopropyl 3,5-difluoro-4-[(1S,5R,6R)-2-oxo-3-oxabicyclo[3.1.0]hex-6-yl]phenylcarbamate | FC=1C=C(C=C(C1[C@@H]1[C@H]2COC([C@@H]12)=O)F)NC(OC(C)C)=O | C15H15F2NO4
